US07531532B2
4-(3-Methyl-4-nitrophenoxy)pyridin-2-ylamine
To a solution of 2-amino-4-chloropyridine (2.50 g, 19.4 mmol) in N-methylpyrrolidone (20 ml) were added 3-methyl-4-nitrophenol (5.94 g, 38,8 mmol) and diisopropylethylamine (13.5 ml, 77.5 mmol), followed by stirring at 150° C. under a nitrogen atmosphere. The reaction mixture was cooled down to room temperature, and diisopropylethylamine in the mixture was evaporated under a reduced pressure. The resultant residue was partitioned between ethyl acetate (150 ml) and a 1 N aqueous solution of sodium hydroxide (50 ml). The aqueous layer was extracted with ethyl acetate (50 ml). The combined organic layer was washed with brine, and dried over anhydrous sodium sulfate. The solvent was evaporated to give a residue, which was then purified by silica gel column chromatography (eluent; hexane/ethyl acetate=1/2, ethyl acetate, then ethyl acetate/methanol=20/1) to provide the titled compound (1.64 g, 34.4%) as a brown solid.

reactant | 2-amino-4-chloropyridine | 19.4 mmol, 2.50 g | NC1=NC=CC(=C1)Cl | C5H5ClN2
reactant | 3-methyl-4-nitrophenol | 38,8 mmol, 5.94 g | CC=1C=C(C=CC1[N+](=O)[O-])O | C7H7NO3
reactant | diisopropylethylamine | 77.5 mmol, 13.5 ml | C(C)(C)N(CC)C(C)C | C8H19N
solvent | N-methylpyrrolidone | 20 ml | CN1C(CCC1)=O | C5H9NO
product | 4-(3-Methyl-4-nitrophenoxy)pyridin-2-ylamine | 1.64 g, 34.4% | CC=1C=C(OC2=CC(=NC=C2)N)C=CC1[N+](=O)[O-] | C12H11N3O3
